US05532358
E) Preparation of 2-(Cyclopropylamino)-N-(2-methoxy-4-methyl-3-pyridinyl)-3-pyridinecarboxamide
2-Chloro-N-(2-methoxy-4-methyl-3-pyridinyl)-3-pyridinecarboxamide (0.55 g, 2 mmol) was placed in a sealed tube containing cyclopropylamine (0.5 mL, 7 mmol) and heated to 110° C. overnight. Removal of the cyclopropylamine by rotary evaporation followed by flash chromatography of the residue on silica gel (1:1 EtOAc:hexanes) gave the desired compound in 86% yield (0.51 g). m.p.: 151°-152° C. (Recrystallized from heptane).

reactant | 2-Chloro-N-(2-methoxy-4-methyl-3-pyridinyl)-3-pyridinecarboxamide | 2 mmol, 0.55 g | ClC1=NC=CC=C1C(=O)NC=1C(=NC=CC1C)OC | C13H12ClN3O2
reactant | cyclopropylamine | 7 mmol, 0.5 mL | C1(CC1)N | C3H7N
product | 2-(Cyclopropylamino)-N-(2-methoxy-4-methyl-3-pyridinyl)-3-pyridinecarboxamide | 86% yield | C1(CC1)NC1=NC=CC=C1C(=O)NC=1C(=NC=CC1C)OC | C16H18N4O2
